US07700641B2
Synthesis of methyl 4-[(2′-oxospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-1′(2′H)-yl)methyl]benzoate
Following the procedure as described in EXAMPLE 1, and making non-critical variations using methyl 4-{[3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-2-oxo-2,3-dihydro-1H-indol-1-yl]methyl}benzoate to replace 1-(2-cyclopropylethyl)-3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one, the title compound was obtained as a white powder in 87% yield: 1H NMR (300 MHz, CDCl3) δ 8.01 (d, 2H), 7.38 (d, 2H), 7.18 (t, 2H), 7.02 (t, 1H), 6.72 (d, 1H), 6.52 (s, 1H), 6.12 (s, 1H), 5.86 (m, 2H), 5.11 (d, 1H), 4.96 (d, 1H), 4.86 (d, 1H), 4.69 (d, 1H), 3.89 (s, 1H); 13C NMR (75 MHz, CDCl3) δ 177.7, 166.6, 156.0, 149.0, 142.4, 141.8, 140.8, 132.1, 130.3, 129.8, 129.0 127.3, 124.1, 123.7, 119.3, 109.2, 103.0, 102.0, 93.7, 80.5, 58.3, 52.2, 43.9; MS (ES+) m/z 430.1 (M+1).

reactant | methyl 4-{[3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-2-oxo-2,3-dihydro-1H-indol-1-yl]methyl}benzoate | OC=1C(=CC2=C(OCO2)C1)C1(C(N(C2=CC=CC=C12)CC1=CC=C(C(=O)OC)C=C1)=O)CO | C25H21NO7
reactant | 1-(2-cyclopropylethyl)-3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one | C1(CC1)CCN1C(C(C2=CC=CC=C12)(CO)C1=CC2=C(OCO2)C=C1O)=O | C21H21NO5
product | methyl 4-[(2′-oxospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-1′(2′H)-yl)methyl]benzoate | 87% yield | O=C1N(C2=CC=CC=C2C12COC=1C2=CC2=C(OCO2)C1)CC1=CC=C(C(=O)OC)C=C1 | C25H19NO6
